US09328110B2
To a stirred solution of 4-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)-1-phenylbutan-1-one (4.15 g, 11.2 mmol) in chloroform (56 mL) was added 3-chloroperoxybenzoic acid (m-CPBA, approximately 77% purity, 2.75 g, 12.3 mmol) portionwise over a several minute period. After 1 hour, the reaction was not complete as judged by TLC, so an additional charge of m-CPBA (1.0 g) was added. After stirring for 30 minutes, the mixture was diluted with chloroform (200 mL), washed successively with a saturated aqueous sodium bicarbonate solution (2×100 mL) and brine (100 mL), dried over sodium sulfate, filtered, and concentrated to provide 4-(2-butyl-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)-1-phenylbutan-1-one as a dark oil that was used directly in the next step without further purification.

reactant | 4-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)-1-phenylbutan-1-one | 11.2 mmol, 4.15 g | C(CCC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCC(=O)C1=CC=CC=C1 | C24H25N3O
reactant | 3-chloroperoxybenzoic acid | 12.3 mmol, 2.75 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | m-CPBA | 1.0 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | chloroform | 56 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-(2-butyl-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)-1-phenylbutan-1-one | C(CCC)C=1N(C2=C(C=[N+](C=3C=CC=CC23)[O-])N1)CCCC(=O)C1=CC=CC=C1 | C24H25N3O2
